Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
cough, chills
 
Major Surgical or Invasive Procedure:
___ Chest CTA
___ Echocardiogram
 
History of Present Illness:
The patient is an ___ w/ DM2, afib, HTN who was transferred from 
___ per his request after presenting ___ with 
persistent cough and fevers x2days. He noted shaking chills 
after mowing his lawn 2days PTA and went to an urgent care 
clinic where he was given IVF and Tylenol and sent home with a 
diagnosis of gastroenteritis. He returned on ___ to the clinic 
with persistent symptoms, CXR showed a left-sided PNA and he was 
given Levaquin and sent home. He took one dose last night and 
again this morning but still had symptoms, so he PCP told him to 
go to a local ER. There, he was given a dose of Zosyn and 
scheduled to be admitted but he requested transfer to ___ ED. 
.
Here, CXR confirmed dense LML and LLL consolidations. He was 
afebrile (although he had gotten Tylenol before being 
transferred) and O2 sat was 89% on RA, improving to 95% on 4L. 
BCx were drawn. Troponin was 0.02. He was admitted for further 
management of his PNA.

 
Past Medical History:
HTN
dyslipidemia 
afib on coumadin
DM2-diet controlled
Diastolic HF
remote tobacco
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T: 100.7 BP: 129/77 HR: 72 RR: 22 O2:  98% 4 liters O2
Eyes: EOMI, PERRL, conjunctiva clear, noninjected, anicteric, no 
exudate
ENT: Moist
Neck: No JVD, no carotid bruits
Cardiovascular: irreg irreg, nl S1/S2, II/VI HSM RUSB
Respiratory: decreased BS left lower two-thirds, comfortable, 
rhonchi and coarse breath sounds throughout, no wheezes
Gastrointestinal: soft, non-tender, non-distended, no 
hepatosplenomegaly, normal bowel sounds
Musculoskeletal/Extremities: no clubbing, no cyanosis, no joint 
swelling, no edema in the bilateral extremities
Neurological: Alert and oriented x3, fluent speech, sensation 
WNL
Integument: warm, no rash, no ulcer
Psychiatric: appropriate, pleasant

On discharge; 
Vitals:  96.5  133/93  92  22  98%6Lnc
Pain: ___
Access: PIV
Gen: nad, pleasant, ___ NP cough
HEENT: o/p clear, mmm, nasal canula in place
CV: irreg irreg, ___ SM at LSB
Resp: bilateral crackles, L>R
Abd; soft, nontender, +BS
Ext; trace b/l edema
Neuro: A&OX3, nonfocal
Skin: no changes
psych: appropriate

 
Pertinent Results:
Admission Labs:
==============
___ 11:20AM   GLUCOSE-148* UREA N-20 CREAT-1.2 SODIUM-136 
POTASSIUM-3.6 CHLORIDE-96 TOTAL CO2-29 ANION GAP-15
___ 11:20AM   CK-MB-6 cTropnT-0.02*
___ 05:02PM   CK(CPK)-334*
___ 11:20AM   WBC-6.9 RBC-4.64 HGB-14.5 HCT-42.2 MCV-91 
MCH-31.3 MCHC-34.5 RDW-13.5
___ 11:20AM   NEUTS-84.5* LYMPHS-12.0* MONOS-3.3 EOS-0 
BASOS-0.1
___ 11:20AM   ___ PTT-33.4 ___
___ 11:20AM   PLT COUNT-169

on discharge:
CBC and chem panel unremarkable today. 
creat improved 1.4->0.9. 
INR 3.5, coumadin being held
Blood Cx ___ X2, ___ NTD
urine legionella negative

EKG: afib at 78bpm, LAD, STD V5-6

.
.
Imaging/results:
.
.
CTA ___ 
IMPRESSION: 
1. Negative examination for pulmonary embolism.  
2. Left upper lobe and lingular dense pneumonia without 
necrosis, associated with a small amount of pleural effusion.   
3. Paraseptal and centrilobular emphysema.   
4. Lung nodules, the largest measures 7 mm in left upper lobe. 
___ likely infectios, followup CT in four months is suggested 
with a dedicated CT chest for further characterization.   
5. Coronary artery calcifications.   
6. Enlarged left atrium. 
.
.
 
CXR ___: FINDINGS: 
There is slightly diminished opacity to the airspace disease in 
the superior portion of the left lower lobe infiltrate. 
Otherwise, there is no significant interval change. No new 
consolidations and no change in fluid status. 
.  
ECHO ___: The atria are markedly dilated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function. Quantitative (triplane 
3D) LVEF = 75%. Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are moderately 
thickened. There is mild aortic valve stenosis (area 1.5 cm2). 
No aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild mitral regurgitation. Moderate tricuspid regurgitation. 
Moderate pulmonary hypertension.  . 

 
Brief Hospital Course:
___ year old male with h/o HTN, Afib on coumadin, diastolic HF 
(EF 75%), DM admitted ___ with fevers/cough and dx c CAP. 
Intially placed on levaquin. However, hospital course 
complicated by worsening hypoxia requiring MICU transfer ___. 
At this time, Abx broadened to Vanc/zosyn/azithro. also CTA done 
which ruled out PE and redemonstrated extensive consolidation. 
Trops negative and Echo no WMA, EF 75%. Etiology of hypoxia 
still CAP. Weaned from 10L O2 to 6L O2, afebrile, and sent to 
floor ___ on Vanc/zosyn.  Did well on floor. kept on broad abx 
since no sputum was able to be collected for cx (bronch too high 
risk). Plan to treat with 10days of Abx. Sent to ___ for 
further care, Abx, monitoring of Hypoxia, f/u imaging. 
.
.
Please see progress note below for details on hospital course 
and plan for each medical illness: 
.
.
Community Acquired Pneumonia: significant consolidation on CT 
___ associated with hypoxia. On broad Abx (vanc, zosyn, 
azithro). Were unable to get sputum for resp cx and bronch too 
high risk (esp given hypoxia) so will keep broad Abx for 10day 
course. 
- today is day ___ of Vanc/zosyn. Can d/c azithro today. 
-keep on 6L O2, titrate to keep sats around 93% (monitor with 
activity, which is when he desaturates). He may need screening 
for outpt O2 for some time, however should see some decrease in 
requirements 
-since he is still coughing w/o much sputum production, will 
change him from duonebs to albuterol + mucomyst nebs q4, 
guaifenesin. 
-he should be on incentive spirometer and OOB and ambulating as 
tolerated. 
-there was some concern for post for postobstructive PNA given 
severity, but will w/u with bronch only if pt fails to improve 
on current regimen (monitor O2 requirements). he needs f/u 
imaging for resolving infiltrate in ___ 
-note legionella was negative. Also CTA negative for PE.  
-NOTE, picc line not placed here for elevated INR (3.5). 
coumadin is held and PICC will be placed at ___
.  
.
Hypertension: Currently well controlled on home regimen of 
lisinopril 40, nifedipine 60, metoprolol 12.5mg bid. 
-given h/o Afib and Echo findings of EF 75% and likley diastolic 
HF in this ___ old male, rate control will be very important. 
Would reccommend evaluation by PCP to see if nifedipine can be 
titrated down and metoprolol titrated up (he denies any h/o 
reactive airway disease)
.  
.
Afib: rate controlled on metoprolol 12.5mg bid. Of note, dig 
level slighlty elevated on admission 1.2 for this ___ old 
male and his dose was decreased to 0.0625 (was 0.125). 
-as above, rate control is important in this patient who will 
easily develop pulm edema from diastolic HF (EF 75%) in setting 
of tachycardia. 
- coumadin held for INR 3.5, restart at home dose 5mg qd once 
<2.0,no need 
.
.
DM II controlled diet controlled.
.
.
Hyperlipidemia: restarted atorva 40mg qd
.
.
FEN/IVF: HLIV, monitoring lytes, Diabetic/heart healthy diet, 
TEDs, no AC for elevated INR, start prilosec OTC (on coumadin) 
proph 
. 
.
DISPO: doing well, will send to ___ for IV Abx and 
rehab. currently stable but still ill patient on 6L nc. 
.

 
Medications on Admission:
procardia XL 60mg qd
warfarin 5mg qd
lescol 40mg qd
lisinopril 40mg qd
HCTZ 12.5mg qd
digoxin 0.125mg qd

 
Discharge Medications:
1. Digoxin 125 mcg Tablet Sig: one half (0.0625mg) Tablet PO 
DAILY (Daily).  
2. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
3. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours).  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed.  
7. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
8. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed.  
9. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Acetylcysteine 10 % (100 mg/mL) Solution Sig: One (1)  
Miscellaneous every six (6) hours: inhaled.  
12. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1)  
Intravenous Q 24H (Every 24 Hours) for 9 days.  
13. Piperacillin-Tazobactam-Dextrs 4.5 gram/100 mL Piggyback 
Sig: One (1)  Intravenous every eight (8) hours for 9 days.  
14. Prilosec OTC 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
  

Primary Diagnosis:
====================
Community Acquired Pneumonia
Chronic Diastolic Heart Failure
Hypoxia

Secondary Diagnosis:
===================
Atrial fibrillation
Diabetes Mellitus, type II diet controlled

 
Discharge Condition:
Stable

 
Discharge Instructions:
1. You were admitted with a resistant pneumonia and you are on 
multiple antibiotics.  You are going to a rehab to finish your 
course of antibiotics. You required a lot of oxygen to keep your 
oxygen level up and this improved as your pneumonia was treated. 
You will be weaned off the oxygen at rehab.

Please return to ___ emergency room for any chest pain, 
shortness of breath, fever, chills or any other concerning 
symptoms.

Return to the ED if you have fever, chills, chest pain or any 
other concerning symptoms. 
 
Followup Instructions:
___